US05541339
5,5'-[(1,2-dioxo-1,2-ethanediyl)diimino]bis-1H-indole-2-carboxylic acid diethyl ester (220 mg, 0.48 mM) is suspended in pyridine (9 mL) and treated with 1N NaOH (1.5 mL). The milky mixture is heated to 60° C. under nitrogen. After 24 hrs N NaOH again added (1 mL) and the reaction heated another 3 hrs. The reaction is then neutralized by the addition of 1N HCl (2.5 mL) and concentrated to one-half volume at less than 20 torr. The residue is then treated with 1N HCl (50 mL) and centrifuged giving a residual slightly pink solid. This is is washed with water, centrifuged, and dried in the vacuum oven leaving the product 5,5'-[(1,2-dioxo-1,2-ethanediyl)diimino]bis-1H-indole-2-carboxylic acid (148 mg).

reactant | 5,5'-[(1,2-dioxo-1,2-ethanediyl)diimino]bis-1H-indole-2-carboxylic acid diethyl ester | 0.48 mM, 220 mg | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)NC(C(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC)=O | C24H22N4O6
reactant | NaOH | 1N, 1.5 mL | [OH-].[Na+]
reactant | HCl | 1N, 2.5 mL | Cl | ClH
solvent | pyridine | 9 mL | N1=CC=CC=C1 | C5H5N
product | 5,5'-[(1,2-dioxo-1,2-ethanediyl)diimino]bis-1H-indole-2-carboxylic acid | 148 mg | O=C(C(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C20H14N4O6
